US06414011B1
1-Methanesulfonyl-3-(4-phenoxyphenyl)-1H-pyrazole
To a solution of 3-(4-phenoxyphenyl)-1H-pyrazole (125 mg, 0.529 mmol) in pyridine (10 mL) at room temperature was added neat methanesulfonyl chloride (50 μL, 0.64 mmol). After stirring overnight at room temperature, the reaction was diluted with water. Column chromatography afforded 152 mg (91%) of the title compound as white solid, mp 136° C. 1H NMR (CDCl3): δ8.06 (d, J=3.0 Hz, 1H), 7.84 (d, J=8.7 Hz, 2H), 7.37 (t, J=8.7 Hz, 2H), 7.14 (t, J=7.5 Hz, 1H), 7.06 (d, J=8.7 Hz, 2H), 7.06-7.04 (m, 2H), 6.72 (d, J=3.0 Hz, 1H), 3.38 (s, 3H).

reactant | 3-(4-phenoxyphenyl)-1H-pyrazole | 0.529 mmol, 125 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC=C1 | C15H12N2O
reactant | methanesulfonyl chloride | 0.64 mmol, 50 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-Methanesulfonyl-3-(4-phenoxyphenyl)-1H-pyrazole | 152 mg, 91% | CS(=O)(=O)N1N=C(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H14N2O3S
